* source LOAD CELL AMPLIFIER
X_U1A         N14687 N14672 +9V -9V VOUT LM324
R_Rf         N14687 VOUT  1000000 TC=0,0 
R_R1         -9V N14687  1800 TC=0,0 
R_R2         +9V N14672  1800 TC=0,0 
R_Rg         0 N14672  1000000 TC=0,0 
V_V1         +9V 0 9Vdc
V_V2         0 -9V 9Vdc
R_R14         0 N20553  937.5 TC=0,0 
R_R11         N20553 N20481  1800 TC=0,0 
R_Rf1         N20481 N20491  1000000 TC=0,0 
R_R9         N20549 N20437  1100 TC=0,0 
R_R12         N20549 0  1800 TC=0,0 
X_U1B         N20481 0 +9V -9V N20491 LM324
R_R13         0 N20549  942.5 TC=0,0 
V_V4         N20437 0 9Vdc
R_R10         N20553 N20437  1100 TC=0,0 
